datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)C)C)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C)C)C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CCCCCC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CC)CCCCCC 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)CC)CCCCCC)[O-:10])CC>>CN([C:20](=[O:10])OC(C([O-:21])CC)CCCCCC)CC 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(CC)[S][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])O[H])CC)CCCCCC>>C(C(O[C:20](=[O:10])O[H])CCCCCC)([O-:21])CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1[H])C)CC.[O-:21][H]>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])C)CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C([H])[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[Cl:21])C1=CC=CC=C1)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[Cl-:21] 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)O[H].[H][O:10][K]>>[H][O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)O[H] 10=21;21,20=20"
"[Na][O+:21]([C:20]([O-:10])(OCCCCCC)OCC)[H]>>[Na][O:21][H].[C:20](=[O:10])(OCCCCCC)OCC 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H]N([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)OC)[H]>>[H]N([C:20](=[O:10])OC)[H].C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CCCCCC)CC>>CCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[O:10]([K])C(CCC)C([H])/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"[H][S:10]C(CC)C([H])[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[O:10]([K])C([H])C(C)/C(C)=C(C)\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)=C(C)C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)CC)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CC.[O-:21]CCCCCC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)CC)[H] 21=20;20,10=10"
